US07285557B2
7-chloro-3-{3-methoxy-4-[2-(1-pyrrolidinyl)ethoxy]phenyl}-4(3H)-quinazolinone
2-Amino-4-chloro-N-{3-methoxy-4-[2-(1-pyrrolidinyl)ethoxy]phenyl}benzamide (11.6 mmol, 4.5 g) was dissolved in 90 mL 88% formic acid and was heated to reflux for 3 h. The solvents were removed by rotary evaporation and the residue was purified by silica gel column chromatography affording the lo product (4.2 g, 91%). 1H NMR (DMSO-D6): δ 1.82 (4H, m), 2.65 (4H, m), 2.88 (2H, t, J=6.2 Hz), 3.88 (3H, s), 4.20 (2H, t, J=6.4 Hz), 6.89-6.91 (2H, overlapping), 7.01 (1H, d, J=10.1 Hz), 7.49 (1H, d, J=8.6 Hz), 7.76 (1H, s), 8.12 (1H, s), 8.29 (1H, d, 8.7 Hz). LCMS m/z=400 (m+H+).

reactant | 2-Amino-4-chloro-N-{3-methoxy-4-[2-(1-pyrrolidinyl)ethoxy]phenyl}benzamide | 11.6 mmol, 4.5 g | NC1=C(C(=O)NC2=CC(=C(C=C2)OCCN2CCCC2)OC)C=CC(=C1)Cl | C20H24ClN3O3
reactant | formic acid | 90 mL | C(=O)O | CH2O2
product | 7-chloro-3-{3-methoxy-4-[2-(1-pyrrolidinyl)ethoxy]phenyl}-4(3H)-quinazolinone | 4.2 g, 91% | ClC1=CC=C2C(N(C=NC2=C1)C1=CC(=C(C=C1)OCCN1CCCC1)OC)=O | C21H22ClN3O3
